US08030302B2
Ethyl 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylate
Crude (E)-2-(2-(4-fluorophenyl)hydrazono)acetaldehyde (0.97 g, 5.8 mmol) is dissolved in EtOH (50 mL), and diethyl malonate (0.93 g, 5.8 mmol) and piperidine (0.2 mL, 2.0 mmol) are added. The mixture is heated at reflux overnight. The reaction mixture is then cooled and concentrated. The residue is diluted with water and extracted with EtOAc twice. The combined organic extracts are dried over Na2SO4 and concentrated. The residue is purified by column chromatography on silica gel, eluting with PE:EtOAc (from 3:1 to 1:1), to afford title compound (0.26 g, 17% yield of two steps) MS (m/z): 263 (M+H).

reactant | (E)-2-(2-(4-fluorophenyl)hydrazono)acetaldehyde | 5.8 mmol, 0.97 g | FC1=CC=C(C=C1)N\N=C\C=O | C8H7FN2O
reactant | diethyl malonate | 5.8 mmol, 0.93 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 2.0 mmol, 0.2 mL | N1CCCCC1 | C5H11N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 50 mL | CCO | C2H6O
product | Ethyl 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylate | 0.26 g, 17% yield | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)OCC | C13H11FN2O3
